US07732456B2
4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one
Example 120 was repeated except that tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate was replaced with tert-butyl (2S)-2-(hydroxymethyl)pyrrolidine-1-carboxylate. The resulting compound was used in placed of 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]oxy}phenyl)-1H-pyridin-2-one which was used in Example 121. Otherwise repeating Example 121, the title compound was obtained.

reactant | tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | tert-butyl (2S)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 4-[(5-chloro-2-pyridinyl)methoxy]-1-(4-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]oxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)O[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C26H28ClN3O5
product | 4-[(5-Chloro-2-pyridinyl)methoxy]-1-(4-{[(2S)-2-pyrrolidinyl]methoxy}phenyl)-1H-pyridin-2-one | ClC=1C=CC(=NC1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OC[C@H]1NCCC1)=O | C22H22ClN3O3
